US04695654
To a solution of 1-benzyloxy-2,2-difluoro-4-hydroxybutane (50 g, 0.231 moles) and dry pyridine (100 mL) in dichloromethane cooled in an ice bath, methanesulfonyl chloride (26.52 g, 0.232 moles) in dichloromethane (100 mL) is slowly added. After stirring at room temperature overnight, the mixture is washed with 2N HCl (2×1 L) and twice with water. Drying and subsequent evaporation of the solvent yields 1-benzyloxy-2,2-difluoro-4-methanesulfonyloxybutane as a yellow oil: 63.44 g (93%).

reactant | 1-benzyloxy-2,2-difluoro-4-hydroxybutane | 0.231 moles, 50 g | C(C1=CC=CC=C1)OCC(CCO)(F)F | C11H14F2O2
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.232 moles, 26.52 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-benzyloxy-2,2-difluoro-4-methanesulfonyloxybutane | C(C1=CC=CC=C1)OCC(CCOS(=O)(=O)C)(F)F | C12H16F2O4S
